US08053574B2
Imidazole-1-carboxylic acid (6-bromo-benzothiazol-2-yl)-amide
A suspension of 6-bromo-benzothiazol-2-ylamine (5 g, 21.83 mmol) in DCM (250 ml) is treated with CDI (3.54 g, 21.83 mmol) and the reaction mixture is heated to reflux for 2 hours. The reaction mixture is filtered and the resulting solid is dried in the vacuum oven overnight to afford the title compound.

reactant | 6-bromo-benzothiazol-2-ylamine | 21.83 mmol, 5 g | BrC1=CC2=C(N=C(S2)N)C=C1 | C7H5BrN2S
reactant | CDI | 21.83 mmol, 3.54 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
solvent | DCM | 250 ml | C(Cl)Cl | CH2Cl2
product | Imidazole-1-carboxylic acid (6-bromo-benzothiazol-2-yl)-amide | BrC1=CC2=C(N=C(S2)NC(=O)N2C=NC=C2)C=C1 | C11H7BrN4OS
